US08420863B2
To an ice cold solution of 2,6-diethoxybenzyl alcohol (1.0 g, 5.2 mmol) in THF (10 mL) was added phosphorous tribromide (0.48 mL, 5.1 mmol) dropwise. The reaction was allowed to warm to room temperature and stirred for 1 h. After quenching the reaction with water, the mixture was extracted with EtOAc. The combined organics were washed with brine and dried over Na2SO4. The solution was concentrated under reduced pressure to give 2,6-diethoxybenzyl bromide as a brown oil. Yield (1.3 g, 98%).

reactant | 2,6-diethoxybenzyl alcohol | 5.2 mmol, 1.0 g | C(C)OC1=C(CO)C(=CC=C1)OCC | C11H16O3
reactant | phosphorous tribromide | 5.1 mmol, 0.48 mL | P(Br)(Br)Br | Br3P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2,6-diethoxybenzyl bromide | C(C)OC1=C(CBr)C(=CC=C1)OCC | C11H15BrO2
